US06962933B1
2-bromo-l-(4-methoxyphenyl)-2-(3-pyridyl)ethanone hydrobromide
1-(4-Methoxyphenyl)-2-(3-pyridyl)ethanone (6.9 g) was dissolved in acetic acid (36 mL), bromine (1.7 mL) was added, and the mixture was stirred at 80° C. for 3 h. The reaction mixture was cooled with iced water and the precipitated crude crystals were collected by filtration. The crude crystals were recrystallized from ethanol-ethyl ether to give the title compound (10 g, yield 89%).

reactant | 1-(4-Methoxyphenyl)-2-(3-pyridyl)ethanone | 6.9 g | COC1=CC=C(C=C1)C(CC=1C=NC=CC1)=O | C14H13NO2
reactant | bromine | 1.7 mL | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 36 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-l-(4-methoxyphenyl)-2-(3-pyridyl)ethanone hydrobromide | 10 g, yield 89% | Br.BrC(C(=O)C1=CC=C(C=C1)OC)C=1C=NC=CC1 | InChI=1S/C14H12BrNO2.BrH/c1-18-12-6-4-10(5-7-12)14(17)13(15)11-3-2-8-16-9-11;/h2-9,13H,1H3;1H
